US07371751B2
2,4-Dichloro-N-(4-chloro-phenyl)-N-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-benzamide
According to the procedure described fort he synthesis of Example 136 further derivatives have been synthesised from 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-thiazole-5-carboxylic acid and various commercially available amines and comprise Examples 137-Example 146 below. In cases of Example 143 additionally 2 eq. NEt3 were added to the reaction mixture as the amine hydochloride was used as starting material.

reactant | 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-thiazole-5-carboxylic acid | ClC1=CC=C(C=C1)N(C=1SC(=CN1)C(=O)O)C(C1=C(C=C(C=C1)Cl)Cl)=O | C17H9Cl3N2O3S
reactant | NEt3 | CCN(CC)CC | C6H15N
product | 2,4-Dichloro-N-(4-chloro-phenyl)-N-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-benzamide | ClC1=C(C(=O)N(C=2SC(=CN2)C(=O)N2CCCC2)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C21H16Cl3N3O2S
